US06869699B2
Synthesis of 5,12-dihydro-benzo[b]phenazine (II)
2,3-dihydroxynapthalene (10 g, 62.5 mmol), 1,2-phenylenediamine (6.75 g, 62.5 mmol) and N,N-dimethylaniline (54 ml) are placed into a round bottom flask under nitrogen atmosphere. Mixture is stirred at reflux. Reaction is monitored by TLC (CH2Cl2:Heptane/1:1) until all 2,3-dihydroxynaphthalene has reacted (˜3 hours). After cooling to room temperature, toluene (100 ml) is added and solid is collected by vacuum filtration. After washing with toluene (50 ml), ethanol (100 ml) and hexanes (50 ml), the product is dried under vacuum to yield 11.0 g (76% yield) of light yellow solid.

reactant | 2,3-dihydroxynapthalene | 62.5 mmol, 10 g | OC1=CC2=CC=CC=C2C=C1O | C10H8O2
reactant | 1,2-phenylenediamine | 62.5 mmol, 6.75 g | C1(=C(C=CC=C1)N)N | C6H8N2
reactant | N,N-dimethylaniline | 54 ml | CN(C1=CC=CC=C1)C | C8H11N
reactant | CH2Cl2 | C(Cl)Cl | CH2Cl2
solvent | toluene | 100 ml | C1(=CC=CC=C1)C | C7H8
solvent | Heptane | CCCCCCC | C7H16
product | 5,12-dihydro-benzo[b]phenazine | 76% yield | C1=CC=CC=2NC=3C=C4C(=CC3NC12)C=CC=C4 | C16H12N2
